US07576108B2
c: (E)-2-(4-Methanesulfonyl-phenyl)-5-methyl-hex-2-enoic acid ethyl ester
Following the method of example 54d, oxidation of (E)-5-methyl-2-(4-methylsulfanyl-phenyl)-hex-2-enoic acid ethyl ester (840 mg, 3.01 mmol) with oxone® (2.4 g, 3.9 mmol) in methanol gives the title compound as a yellow oil (848 mg). MS (m/e): 311 (M+H).

reactant | (E)-5-methyl-2-(4-methylsulfanyl-phenyl)-hex-2-enoic acid ethyl ester | 3.01 mmol, 840 mg | C(C)OC(\C(=C\CC(C)C)\C1=CC=C(C=C1)SC)=O | C16H22O2S
reactant | oxone | OOS(=O)[O-].[K+]
reactant | methanol | CO | CH4O
product | (E)-2-(4-Methanesulfonyl-phenyl)-5-methyl-hex-2-enoic acid ethyl ester | 848 mg | C(C)OC(\C(=C\CC(C)C)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C16H22O4S
